* Extracted by KLayout with SKY130 LVS runset on : 21/07/2026 12:56

.SUBCKT INV_X2 1 2 3 4 6
M$1 3 1 4 5 sky130_fd_pr__pfet_01v8 L=0.15 W=2 AS=0.395 AD=0.395 PS=3.79 PD=3.79
M$3 2 1 4 6 sky130_fd_pr__nfet_01v8 L=0.15 W=1.3 AS=0.25675 AD=0.25675 PS=2.74
+ PD=2.74
.ENDS INV_X2
